US09107916B2
A. 2-[5-[1-(4-fluorophenyl)ethoxy]pyrazol-1-yl]pyridine-4-carbonitrile
The title compound was prepared from 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile and 1-(4-fluorophenyl)ethanol according to the procedure for the preparation of Example 39, part C. 1H NMR (400 MHz, CDCl3): δ 1.65 (3H, d, J=6.4 Hz), 5.24 (1H, q, J=6.4 Hz), 5.44 (1H, d, J=2.0 Hz), 6.95-7.00 (2H, m), 7.27-7.30 (2H, m), 7.35 (1H, dd, J=0.8 Hz, J=5.2 Hz), 7.41 (1H, d, J=2.0 Hz), 7.97 (1H, s), 8.66 (1H, d, J=4.8 Hz). [M+H] Calc'd for C17H13FN4O, 309. Found, 309.

reactant | 2-(5-hydroxy-1H-pyrazol-1-yl)pyridine-4-carbonitrile | OC1=CC=NN1C1=NC=CC(=C1)C#N | C9H6N4O
reactant | 1-(4-fluorophenyl)ethanol | FC1=CC=C(C=C1)C(C)O | C8H9FO
product | 2-[5-[1-(4-fluorophenyl)ethoxy]pyrazol-1-yl]pyridine-4-carbonitrile | FC1=CC=C(C=C1)C(C)OC1=CC=NN1C1=NC=CC(=C1)C#N | C17H13FN4O
